US08183231B2
[(R)-3-((R)-2-Amino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid
Step 4, Method B of Example 1 was substantially repeated in this Example 4 except for employing ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-D-valine as the starting materials. Subsequent hydrogenation of the resulting benzyl ester in accordance with the procedures of Step 5, Method A of Example 1 yielded the title compound. 1H NMR (CD3OD, 300 MHz): δ 4.15-4.01 (m, 1H), 3.58 (d, 1H), 3.55-3.43 (m, 1H), 3.32-3.15 (m, 1H), 2.25-2.07 (m, 1H), 2.02-1.85 (m, 2H), 1.83-1.58 (m, 6H), 1.56-1.45 (m, 2H), 1.42-1.18 (m, 3H), 1.10 (d, 6H), 1.08-0.96 (m, 2H). 31P NMR (CD3OD, 300 MHz): δ 40.91. LCMS m/z: [M+H]+=335.1.

reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-D-valine | C(=O)(OCC1=CC=CC=C1)N[C@H](C(C)C)C(=O)O | C13H17NO4
product | [(R)-3-((R)-2-Amino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid | N[C@@H](C(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O)C(C)C | C15H31N2O4P
